US08877782B2
6-[3-(2,4-Difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide
As described for example 263f, 6-[3-(2,4-difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester (200 mg, 0.56 mmol) was converted, using 4-aminotetrahydropyran instead of isopropylamine, to the title compound (219 mg, 92%) which was obtained as a white solid. MS: m/e=428.1 [M−H]−.

reactant | 6-[3-(2,4-difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-nicotinic acid methyl ester | 0.56 mmol, 200 mg | COC(C1=CN=C(C=C1)OCC=1C(=NOC1C)C1=C(C=C(C=C1)F)F)=O | C18H14F2N2O4
reactant | 4-aminotetrahydropyran | NC1CCOCC1 | C5H11NO
product | 6-[3-(2,4-Difluoro-phenyl)-5-methyl-isoxazol-4-ylmethoxy]-N-(tetrahydro-pyran-4-yl)-nicotinamide | 219 mg, 92% | FC1=C(C=CC(=C1)F)C1=NOC(=C1COC1=NC=C(C(=O)NC2CCOCC2)C=C1)C | C22H21F2N3O4
